US08835428B2
(S)-3-Methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-pentanoic acid
The title compound was prepared from (S)-3-methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-pentanoic acid methyl ester as set forth in Example 8 and was obtained in 66.5% yield. Mass (ES+): 437 (M++1); IR (KBr): 3336, 3280, 1717, 1667 (br), 1599, 1542 (br); 1H NMR (DMSO-d6) δ: 0.84, 0.88 (2×d, 6H), 1.51-1.68 (m, 2H), 1.71-1.79 (m, 1H), 4.36 (m, 1H), 6.94 (t, 1H), 7.25 (t, 2H), 7.42 (d, 2H), 7.57 (d, 2H), 7.58 (s, 1H), 7.80 (d, 2H), 8.77 (br, 1H), 8.97 (br, 1H), 9.13 (d, 1H).

reactant | (S)-3-methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-pentanoic acid methyl ester | COC([C@H](C(CC)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C24H26N4O5
reactant | KBr | [K+].[Br-]
product | (S)-3-Methyl-2-({3-[4-(3-phenyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-pentanoic acid | 66.5% yield | CC([C@@H](C(=O)O)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)CC | C23H24N4O5
